Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Lipitor
 
Attending: ___
 
Chief Complaint:
Vertigo
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Patient is a ___ year old female with Afib (on warfarin and
metoprolol), Crohn's (on Pentasa (Mesalazine) and mercaptopurine
HLD, HTN, T2DM, chronic left ear tinnitus, vertigo (of 
peripheral
etiology for past ___ years, improved after ___ who presented to
___ with complaints of new dizziness and visual
disturbances. 

Over the past week, patient has had episodes where objects in 
her
visual field shake and swirl. This is intermittent and usually
occurs as she is laying down and lasts about ___ minutes. This
morning, she had an episode around 5 AM that lasted longer than
30 minutes, which prompted her to go to the hospital.

The symptoms resolve as she gets up, and do not get worse with
lying down. She denies room spinning vertigo but reports
disequilibrium with feeling that she is on a boat when 
ambulating
immediately after getting up from these episodes. Her symptoms
also resolve when she closes both her eyes, and the swirling
movement slows down when she closes either eye. She describes
that the sensation is not similar to her prior vertigo,
previously she felt room spinning. Her previous vertigo also
improved with physical therapy and exercises (likely ___ based
on description).

She reports no loss of vision, dark spots in her vision during
these episodes. No associated headache, changes in smell,
hearing, sensation or motor weakness. No loss of consciousness.
No abnormal movements. Denies trauma. Denies headache. 

Patient presented today to ___ where a CTA was
performed of the head and neck. This showed possible focal
narrowing of the distal left vertebral artery at the skull base.
There was no evidence of occlusion. There is also area of
hypodensity in the right posterior occipital lobe, possibly a
prior stroke. Patient without any focal neurological deficits. 

The patient reports that she had an MRI several years ago that
diagnosed her vertigo. Also notes that many years ago, they 
found
congenital narrowing of her left carotid artery contributing to
her chronic tinnitus in her left ear.   
 
Past Medical History:
High cholesterol
Hypertension
Diabetes Mellitus
Atrial Fibrillation
Crohn's
Tinnitus
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
Physical exam on day of admission

Vitals: T: 97.2C  HR:72   BP:127/86   RR:18   SaO2:99% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. Able to register 3 objects and recall
___ at 5 minutes without hints, after hints recalls ___. There
was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. Gaze dysconjugate
with left esotropia (chronic, known to patient). Pt also has 
left
beating nystagmus in primary gaze, direction changing nystagmus
in right and left gaze (reports this was never known), no
corrective saccade with head impulse test, no skew deviation. 
VFF
to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to conversation bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature,  or
proprioception throughout.  Reports disequilibrium with Romberg. 


-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     2
R   2     2      2      2     2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF bilaterally. No truncal ataxia.

-Gait: Good initiation. unable to walk in tandem. 

Physical exam on day of discharge

Vitals: T: 98.7 C  HR:85   BP:125/84   RR:17  SaO2:98% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. Able to register 3 objects and recall
___ at 5 minutes without hints, after hints recalls ___. There
was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. There is left 
beating nystagmus when patient is looking to the left or right. 
There is no vertical nystagmus. 
VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to conversation bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature,  or
proprioception throughout.  Reports disequilibrium with Romberg. 


-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     2
R   2     2      2      2     2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF bilaterally. No truncal ataxia.

-Gait: Good initiation. unable to walk in tandem. 

Unterberger: Patient deviates to the right.

 
Pertinent Results:
___ 08:01AM BLOOD WBC-5.9 RBC-3.83* Hgb-12.5 Hct-39.8 
MCV-104* MCH-32.6* MCHC-31.4* RDW-14.3 RDWSD-54.8* Plt ___
___ 07:00PM BLOOD WBC-7.6 RBC-3.76* Hgb-12.5 Hct-38.5 
MCV-102* MCH-33.2* MCHC-32.5 RDW-14.1 RDWSD-53.3* Plt ___
___ 12:40PM BLOOD Neuts-79.2* Lymphs-13.5* Monos-6.4 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-6.70* AbsLymp-1.14* 
AbsMono-0.54 AbsEos-0.02* AbsBaso-0.02
___ 08:01AM BLOOD Plt ___
___ 08:01AM BLOOD ___ PTT-43.3* ___
___ 07:00PM BLOOD Plt ___
___ 07:00PM BLOOD ___ PTT-43.7* ___
___ 12:40PM BLOOD Plt ___
___ 12:40PM BLOOD ___ PTT-44.6* ___
___ 08:01AM BLOOD Glucose-151* UreaN-11 Creat-0.6 Na-142 
K-4.2 Cl-103 HCO3-27 AnGap-12
___ 07:00PM BLOOD Glucose-192* UreaN-12 Creat-0.6 Na-143 
K-4.0 Cl-99 HCO3-29 AnGap-15
___ 12:40PM BLOOD Glucose-152* UreaN-11 Creat-0.6 Na-137 
K-6.3* Cl-98 HCO3-28 AnGap-11
___ 07:00PM BLOOD ALT-36 AST-19 CK(CPK)-72 AlkPhos-78 
TotBili-0.5
___ 12:40PM BLOOD ALT-<5 AST-100* CK(CPK)-169 AlkPhos-58 
TotBili-0.6
___ 12:40PM BLOOD cTropnT-<0.01
___ 12:40PM BLOOD CK-MB-2
___ 08:01AM BLOOD Calcium-9.1 Phos-3.4 Mg-2.0
___ 07:00PM BLOOD Calcium-9.3 Phos-3.9 Mg-1.8 Cholest-183
___ 07:00PM BLOOD %HbA1c-7.7* eAG-174*
___ 12:40PM BLOOD %HbA1c-7.6* eAG-171*
___ 07:00PM BLOOD Triglyc-177* HDL-60 CHOL/HD-3.1 
LDLcalc-88
___ 12:40PM BLOOD Triglyc-101 HDL-66 CHOL/HD-3.0 
LDLcalc-115
___ 12:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
Ms. ___ is a ___ year old with history of atrial fibrillation 
and peripheral vestibulopathy who presents with 30 minutes of 
vertigo now resolved. Exam notable for left beating nystagmus on 
left gaze and corrective saccade on head impulse to right with 
Unterberger to the right. She had MRI given her significant risk 
factor for stroke which was negative. Patient was diagnosed with 
a right sided vestibulopathy. We are discharging her on 
meclizine 25 mg as needed for vertigo episodes. She can also do 
outpatient vestibular physical therapy as an outpatient.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO ASDIR 
2. Januvia (SITagliptin) 100 mg oral LUNCH 
3. Lantus U-100 Insulin (insulin glargine) 100 unit/mL 
subcutaneous QAM 
4. Metoprolol Succinate XL 50 mg PO BID 
5. Diltiazem Extended-Release 120 mg PO QPM 
6. Warfarin 10 mg PO QPM 
7. Pravastatin 80 mg PO QPM 
8. Mesalamine 500 mg PO ASDIR 
9. Mercaptopurine 100 mg PO QAM 
10. Spironolactone 50 mg PO QAM 
11. Vitamin D3 (cholecalciferol (vitamin D3)) 1,000 unit oral 
DAILY 

 
Discharge Medications:
1.  Meclizine 12.5 mg PO Q8H:PRN vertigo 
take ___ tablets as needed when ___ have vertigo flares  
RX *meclizine 12.5 mg 1 tablet(s) by mouth q8h:PRN Disp #*30 
Tablet Refills:*0 
2.  Mesalamine 1500 mg PO QPM  
3.  Mesalamine 1500 mg PO QAM  
4.  Mesalamine 1000 mg PO LUNCH  
5.  Diltiazem Extended-Release 120 mg PO QPM  
6.  Januvia (SITagliptin) 100 mg oral LUNCH  
7.  Lantus U-100 Insulin (insulin glargine) 100 unit/mL 
subcutaneous QAM  
8.  Mercaptopurine 100 mg PO QAM  
9.  MetFORMIN (Glucophage) 500 mg PO ASDIR  
10.  Metoprolol Succinate XL 50 mg PO BID  
11.  Pravastatin 80 mg PO QPM  
12.  Spironolactone 50 mg PO QAM  
13.  Vitamin D3 (cholecalciferol (vitamin D3)) 1,000 unit oral 
DAILY  
14.  Warfarin 10 mg PO QPM  
15.Outpatient Physical Therapy
Diagnosis: peripheral vestibulopathy
ICD 10:___
Duration: ongoing 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
vestibulopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ came to the hospital for vertigo. ___ had imaging which 
showed ___ did not have a stroke.

This is likely due to peripheral vestibulopathy or inflammation 
of your vestibular nerve which helps with balance. 

We will prescribe some meclizine as needed which can help with 
vertigo. We also recommend vestibular physical therapy. 

Your INR was ___ yesterday so we recommend taking Coumadin 12 mg 
today, ___ and getting your INR checked on ___ to see if 
your coumadin dose needs adjustment.

We wish ___ the best!

___ Neurology 
 
Followup Instructions:
___